US06017467
To a solution of 33 mmol of 3-fluoro-4-bromo iodobenzene, 0.6 mmol of copper iodide and 1.1 mmol of dichlorobistriphenylphosphine palladium in 100 ml of diethylamine were added dropwise 33 mmol of 4-propyl phenylacetylene under an argon stream while stirring. After completion of the addition, the solution was stirred at room temperature for a further 2 hours and placed into water. The solution was extracted with heptane, washed with water and concentrated under reduced pressure to afford a brown oily product. The product was isolated and purified by a silica gel column chromatography to afford 33 mmol of 2-fluoro-4-[2-(4-propylphenyl)ethynyl]bromobenzene as a pale yellow oily product.

reactant | 3-fluoro-4-bromo iodobenzene | 33 mmol | FC=1C=C(C=CC1Br)I | C6H3BrFI
reactant | 4-propyl phenylacetylene | 33 mmol | C(CC)C1=CC=C(C=C1)C#C | C11H12
reactant | water | O | H2O
solvent | diethylamine | 100 ml | C(C)NCC | C4H11N
catalyst | copper iodide | 0.6 mmol | [Cu](I)I
product | 2-fluoro-4-[2-(4-propylphenyl)ethynyl]bromobenzene | 33 mmol | FC1=C(C=CC(=C1)C#CC1=CC=C(C=C1)CCC)Br | C17H14BrF
